Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
left hand lacerations
 
Major Surgical or Invasive Procedure:
ORIF distal phalanx of middle finger, extensor tendon repair of 
middle finger, repair of middle finger laceration, repair of 
index and thumb with full thickness skin graft to thumb (donor 
site from middle finger)
 
History of Present Illness:
___, RHD, dental resident who presents s/p accident with
blender at 9 ___.  Her blender top malfunctioned and exposed the
blades of the machine which lacerated several fingers on the 
left
hand.  She was given tetanus and Ancef in the ED. 
 
Past Medical History:
PMH: none
PSH: gastric sleeve, ___ in ___
 
Social History:
___
Family History:
noncontributory.
 
Physical Exam:
On Admission: 
Vitals: AFVSS
General: A&Ox3, NAD
CAM/MINICOG: Negative
Heart: Regular rate and rhythm peripherally
Lungs: Breathing comfortably on room air. 
 
Left upper extremity:
- Multiple superficial abrasions on multiple fingers.  Large
dorsal laceration over the DIP of the MF with extensor tendon
involvement.  Obvious fracture within the area of the 
laceration.
- Soft, non-tender arm and forearm
- Full, painless active/passive ROM of shoulder, elbow, wrist,
and digits--the MF is unable to be extended and has limited
flexion ___ pain
- EPL/FPL/DIO (index) fire
- Sensation intact to light touch in 
axillary/radial/median/ulnar
nerve distributions
- 2+ radial pulse, fingers warm and well perfused

On Discharger:
Vitals: AFVSS
General: A&Ox3, NAD
Heart: Regular rate and rhythm peripherally
Lungs: Breathing comfortably on room air. 
 
Left upper extremity: in splint, RF and SF exposed, cap refill < 
2 seconds, sensation intact. pain in control, in NAD.dressing 
c/d/i.

 
Pertinent Results:
___ 05:24AM URINE  UCG-NEGATIVE
___ 05:24AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 12:51AM   WBC-7.4 RBC-4.01 HGB-11.8 HCT-36.0 MCV-90 
MCH-29.4 MCHC-32.8 RDW-11.9 RDWSD-38.4
___ 12:51AM   NEUTS-72.7* ___ MONOS-5.3 EOS-2.0 
BASOS-0.5 IM ___ AbsNeut-5.39 AbsLymp-1.42 AbsMono-0.39 
AbsEos-0.15 AbsBaso-0.04
___ 12:51AM   PLT COUNT-281
___ 12:51AM   PLT COUNT-281
 
Brief Hospital Course:
She was admitted to the floor from the ED overnight for pain 
control and abx after her lacerations were washed in the ED. The 
next morning, she went to the operating room to have her 
lacerations repaired, extensor tendon repaired, and phalangeal 
fracture repaired. She had a block, and pain was well controlled 
overnight. By the next morning after surgery, she was tolerating 
a diet, ambulating, pain was well controlled, and she had return 
of function of the hand as the block had weared off. All 
discharge instructions were conveyed and questions answered.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  cefaDROXil 500 mg/5 mL oral Q12H  
3.  OxyCODONE (Immediate Release) ___ mg PO Q3H:PRN Pain - 
Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
extensor tendon laceration and phalangeal fractures
 
Discharge Condition:
stable, AOx3, ambulatory independently. 
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
please follow up with Dr. ___ as instructed. Call his office 
to make an appointment. Pls call ___ to make follow up 
appointment. Keep splint on and dry and follow Dr. ___ 
___ instructions. 
 
Followup Instructions:
___